US06239160B1
3-Isopropyl-5-(4-trifluoromethyl-3-pyridyl)-1,2,4-oxadiazole (Table 1, No. 81)
2 g of methyl 4-trifluoromethylnicotinate and 1.56 g of isobutyramide oxime were initially charged in 15 ml of ethanol and cooled to 0° C. 10 ml of a 1.2 molar sodium ethoxide solution were added dropwise to this solution. The mixture was allowed to warm to room temperature over a period of two hours and stirring was then continued at this temperature until the reaction, according to TLC, had ended. The reaction mixture was concentrated and the residue was taken up in saturated ammonium chloride solution and extracted with diethyl ether. Chromatographic purification of the crude product gave the desired compound as a yellowish oil.

reactant | methyl 4-trifluoromethylnicotinate | 2 g | FC(C1=CC=NC=C1C(=O)OC)(F)F | C8H6F3NO2
reactant | isobutyramide oxime | 1.56 g | C(C(C)C)(N)=NO | C4H10N2O
reactant | sodium ethoxide | 1.2 molar | [O-]CC.[Na+]
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 3-Isopropyl-5-(4-trifluoromethyl-3-pyridyl)-1,2,4-oxadiazole | C(C)(C)C1=NOC(=N1)C=1C=NC=CC1C(F)(F)F | C11H10F3N3O
